US08492395B2
To a stirred suspension of 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.50 g, 1.5 mmol) and triethylamine (0.29 mL, 2.1 mmol) in THF (12 mL) at 5˜10° C., was added m-toluoyl isocyanate (0.25 mL, 1.9 mmol), and the mixture was stirred at room temperature overnight. The mixture was quenched with methanol (˜1 mL), and the solvent was evaporated. The residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 1-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-3-m-tolyl-urea as an off-white solid (437 mg, 68% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 5.95 min (99.0%); mp, 200-202° C.; 1HNMR (DMSO-d6) 2.07-2.24 (m, 4H, ArCH3, CHH), 2.56-2.88 (m, 6H, CHCH2, CH3), 4.40 (d, J=5 Hz, 2H, CH2NH), 5.26 (dd, J=6, 11 Hz, 1H, CH), 6.70-7.95 (m, 8H, Ar and CH2NH), 8.54 (s, 1H, NH), 11.01 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.92, 21.19, 23.39, 30.61, 42.30, 56.53, 114.93, 118.27, 120.00, 121.87, 123.63, 126.53, 128.44, 133.94, 137.70, 139.23, 140.26, 145.73, 154.50, 155.22, 160.46, 169.48, 172.61. LCMS MH=434; Anal Calcd For C23H23N5O4+1.4H2O: C, 60.23; H, 5.67; N, 15.27. Found: C, 60.18; H, 5.44; N, 15.09.

reactant | 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.5 mmol, 0.50 g | Cl.NCC=1C=C2C(N(C(=NC2=CC1)C)C1C(NC(CC1)=O)=O)=O
reactant | triethylamine | 2.1 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
reactant | m-toluoyl isocyanate | 1.9 mmol, 0.25 mL | C1(=CC(=CC=C1)C(=O)N=C=O)C | C9H7NO2
reactant | THF | 12 mL | C1CCOC1 | C4H8O
product | 1-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-3-m-tolyl-urea | 437 mg, 68% yield | O=C1NC(CCC1N1C(=NC2=CC=C(C=C2C1=O)CNC(=O)NC=1C=C(C=CC1)C)C)=O | C23H23N5O4
